US04552926
2-(3,5-Di-tert-butyl-4-hydroxyphenylthio)ethyl 3,5-Di-tert-butyl-4-hydroxybenzoate
A solution of 9.8 g of 2-(3,5-di-tert-butyl-4-hydroxyphenylthio) ethanol and 3.1 g of pyridine in 40 ml of toluene was added at 15°-20° C. over five minutes to a solution of 9.4 g of 3,5-di-tert-butyl-4-hydroxybenzoyl chloride in 50 ml of toluene. The reaction mixture was stirred at room temperature for 15 hours and then the resultant precipitate of triethylamine hydrochloride was removed by filtration. The solvent was removed in vacuo and the residue was recrystalized from n-heptane to give 15 g (84%) of a white solid, mp 136°-139° C.

reactant | 2-(3,5-di-tert-butyl-4-hydroxyphenylthio) ethanol | 9.8 g | C(C)(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)SCCO | C16H26O2S
reactant | pyridine | 3.1 g | N1=CC=CC=C1 | C5H5N
reactant | 3,5-di-tert-butyl-4-hydroxybenzoyl chloride | 9.4 g | C(C)(C)(C)C=1C=C(C(=O)Cl)C=C(C1O)C(C)(C)C | C15H21ClO2
solvent | toluene | 40 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | 2-(3,5-Di-tert-butyl-4-hydroxyphenylthio)ethyl 3,5-Di-tert-butyl-4-hydroxybenzoate | 15 g, 84% | C(C)(C)(C)C=1C=C(C(=O)OCCSC2=CC(=C(C(=C2)C(C)(C)C)O)C(C)(C)C)C=C(C1O)C(C)(C)C | C31H46O4S
